US08541455B2
To a solution of 10 g (56.8 mmol) of 6-chloropyridine-3-carbonyl chloride in 100 mL of anhydrous toluene are added under argon, at room temperature, 15 g (170.4 mmol) of 2,2-dimethylpropanol. The reaction medium is then heated for 6 hours at 80° C. After cooling to room temperature, the medium is concentrated and the residue obtained is taken up in 800 mL of EtOAc, washed successively with water (2×200 mL), saturated NaHCO3 solution (2×200 mL) and brine (100 mL), dried over Na2SO4, and then concentrated under reduced pressure and purified by chromatography on a column of silica gel, eluting with a cyclohexane/EtOAc gradient of 0 to 5% EtOAc. 11.9 g of 2,2-dimethylpropyl 6-chloropyridine-3-carboxylate are obtained in the form of a white powder.

reactant | 6-chloropyridine-3-carbonyl chloride | 56.8 mmol, 10 g | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | 2,2-dimethylpropanol | 170.4 mmol, 15 g | CC(CO)(C)C | C5H12O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 800 mL | CCOC(=O)C | C4H8O2
product | 2,2-dimethylpropyl 6-chloropyridine-3-carboxylate | 11.9 g, Yield=92% | ClC1=CC=C(C=N1)C(=O)OCC(C)(C)C | C11H14ClNO2
